US07385076B2
The process of the present invention for example involves reacting 3-[1-(dimethylamino)ethyl]phenol with N-ethyl-N-methyl-4-nitrophenyl carbamate in the presence of potassium carbonate and dimethyl sulfoxide at a temperature ranging from about 80° C. to about 120° C. for about 30 to 40 hours, to form racemate of ethylmethylcarbamic acid 3-[1-(dimethylamino)ethyl]phenyl ester in the free base form. This racemate is then resolved to obtain the (S)-ethylmethylcarbamic acid 3-[1-(dimethylamino)ethyl]phenyl ester. The preferred method of resolution of the (S)-isomer from the racemate involves dissolving a mixture of the free base of the racemate and (+)-di-O, O′-p-toluoyl tartaric acid monohydrate in a 2:1 mixture of methanol:water by heating, collecting the precipitate on cooling by filtration, crystallizing the precipitate from a 2:1 mixture of ethanol:water, and obtaining the substantially pure (S)-isomer by partitioning it between 1N sodium hydroxide and a suitable organic solvent. The base may further be converted to its pharmaceutically acceptable acid addition salts, such as L(+)-tartrate salt.

reactant | 3-[1-(dimethylamino)ethyl]phenol | CN(C(C)C=1C=C(C=CC1)O)C | C10H15NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | ethylmethylcarbamic acid 3-[1-(dimethylamino)ethyl]phenyl ester | CN(C(C)C=1C=C(C=CC1)OC(N(C)CC)=O)C | C14H22N2O2
